US07491710B2
2.22 g of 5-benzyloxy-3-(1-tert-butoxycarbonyl-5-hydroxy-1H-indol-2-yl)-indazole-1-carboxylic acid tert-butyl ester and 7.8 g of cesium carbonate, in 22 ml of dibromoethane, are stirred at 80° C. (temperature of the oil bath) for 48 hours. The reaction mixture is filtered through sintered glass and the solid is rinsed with 20 ml of dichloromethane. The filtrate is concentrated under vacuum. The reaction crude is purified by flash chromatography on 160 g of silica. The eluent is 100% dichloromethane. 2 g of 5-benzyloxy-3-[5-(2-bromo-ethoxy)-1-tert-butoxycarbonyl-1H-indol-2-yl]indazole-1-carboxylic acid tert-butyl ester are isolated.

reactant | 5-benzyloxy-3-(1-tert-butoxycarbonyl-5-hydroxy-1H-indol-2-yl)-indazole-1-carboxylic acid tert-butyl ester | 2.22 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=1N(C2=CC=C(C=C2C1)O)C(=O)OC(C)(C)C | C32H33N3O6
reactant | cesium carbonate | 7.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dibromoethane | 22 ml | BrC(C)Br | C2H4Br2
product | 5-benzyloxy-3-[5-(2-bromo-ethoxy)-1-tert-butoxycarbonyl-1H-indol-2-yl]indazole-1-carboxylic acid tert-butyl ester | 2 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=1N(C2=CC=C(C=C2C1)OCCBr)C(=O)OC(C)(C)C | C34H36BrN3O6
